US04985419
1.2 N ethereal hydrochloric acid (0.64 cc) is added to a solution of 2-(4-methyl-2-imidazolyl)-10[(2RS)-1-(1-pyrrolidinyl)-2-propyl]phenothiazine (0.30 g) in anhydrous ethanol (3 cc). The mixture is stirred for 5 minutes and then concentrated to dryness at 40° C. under reduced pressure (30 mm Hg; 4 kPa) to give a residue which is taken up in ethyl ether (70 cc). The solid obtained is filtered off on sintered glass to give 2-(4-methyl-2-imidazolyl)-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]phenothiazine hydrochloride (0.35 g), m.p. 210° C., in the form of a brown powder.

reactant | hydrochloric acid | 1.2 N, 0.64 cc | Cl | ClH
reactant | 2-(4-methyl-2-imidazolyl)-10[(2RS)-1-(1-pyrrolidinyl)-2-propyl]phenothiazine | 0.30 g | CC=1N=C(NC1)C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(CN1CCCC1)C | C23H26N4S
solvent | ethanol | 3 cc | C(C)O | C2H6O
solvent | ethyl ether | 70 cc | C(C)OCC | C4H10O
product | 2-(4-methyl-2-imidazolyl)-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]phenothiazine hydrochloride | 0.35 g | Cl.CC=1N=C(NC1)C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(CN1CCCC1)C | InChI=1S/C23H26N4S.ClH/c1-16-14-24-23(25-16)18-9-10-22-20(13-18)27(17(2)15-26-11-5-6-12-26)19-7-3-4-8-21(19)28-22;/h3-4,7-10,13-14,17H,5-6,11-12,15H2,1-2H3,(H,24,25);1H
